US06277849B1
36 g of 3-methoxy-4-(naphthalen-1-ylmethoxy)-benzaldehyde, 8.7 9 of ammonium acetate and 10 ml of nitromethane are together heated at reflux for 5 hours in 140 ml of glacial acetic acid. After cooling, the reaction mixture is introduced into 1.5 liters of water. Extraction is carried out twice using 1 liter of ethyl acetate each time. The organic phases are washed 4 once with 500 ml of water and three times using 400 ml of 2N potassium hydrogen carbonate solution each time, dried over magnesium sulfate and concentrated, yielding 1-[2-methoxy-4-(2-nitro-vinyl)-phenoxymethyl]-naphthalene, which can be purified by chromatography on silica gel with ethyl acetate/n-hexane 1:4 and recrystallisation in ethyl acetate/n-hexane, m.p. 120-123° C.

reactant | 3-methoxy-4-(naphthalen-1-ylmethoxy)-benzaldehyde | 36 g | COC=1C=C(C=O)C=CC1OCC1=CC=CC2=CC=CC=C12 | C19H16O3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
reactant | water | 1.5 liters | O | H2O
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 1-[2-methoxy-4-(2-nitro-vinyl)-phenoxymethyl]-naphthalene | COC1=C(OCC2=CC=CC3=CC=CC=C23)C=CC(=C1)C=C[N+](=O)[O-] | C20H17NO4
